US07622480B2
This compound was prepared following the procedure described in example 4, part E starting with 2.8 g (6.5 mmol) of 1-(5-chloro-thiophen-2-ylmethyl)3-piperidin-4-yl-1H-pyrrolo[2,3-b]pyridine and 1.5 g (7.2 mmol) of methyl 2-(2-chloroethoxy)benzoate. After standard work-up and purification, 1.1 g (33% yield) of 2-(2-{4-[1-(5-chlorothiophen-2-ylmethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]piperidin-1-yl}ethoxy)benzoic acid methyl ester were obtained.

reactant | 1-(5-chloro-thiophen-2-ylmethyl)3-piperidin-4-yl-1H-pyrrolo[2,3-b]pyridine | 6.5 mmol, 2.8 g | ClC1=CC=C(S1)CN1C=C(C=2C1=NC=CC2)C2CCNCC2 | C17H18ClN3S
reactant | methyl 2-(2-chloroethoxy)benzoate | 7.2 mmol, 1.5 g | ClCCOC1=C(C(=O)OC)C=CC=C1 | C10H11ClO3
product | 2-(2-{4-[1-(5-chlorothiophen-2-ylmethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]piperidin-1-yl}ethoxy)benzoic acid methyl ester | 1.1 g, 33% yield | COC(C1=C(C=CC=C1)OCCN1CCC(CC1)C1=CN(C2=NC=CC=C21)CC=2SC(=CC2)Cl)=O | C27H28ClN3O3S
